* C:\Users\Ezequiel PC\Documents\ITBA\Tercer año\Teoria de circuitos\TP5\Ej4\FleischerTowCascada.asc
XX1 0 N004 N008 nutriopamp
XX2 0 N006 N002 nutriopamp
XX3 0 N010 N005 nutriopamp
XX4 0 N009 Vout1 nutriopamp
XX5 0 N001 N003 nutriopamp
XX6 0 N007 Vout nutriopamp
R1 N005 N004 34.5
R2 N008 N004 13.85k
R3 N004 Vin 47k
R4 N009 N008 13.85k
R5 Vout1 N009 49.35k
R6 N010 Vout1 48.2k
R7 N009 Vin 47k
R8 N010 Vin 47k
C1 N008 N004 10n
C2 N005 N010 10n
R9 N001 Vout1 47k
R10 N007 N003 14.54k
R11 N003 N001 15.54k
R12 N007 Vout1 47k
R14 N006 Vout 48.2k
R15 N006 Vout1 47k
R16 Vout N007 44.89k
C3 N003 N001 10n
C4 N002 N006 10n
R13 N002 N001 32.93
V1 Vin 0 AC 1 0

* block symbol definitions
.subckt nutriopamp V+ V- Vout
E1 Vout 0 V+ V- 1000g
.ends nutriopamp

.ac dec 9999 10k 50k
.backanno
.end
